US05663366
1.5 g (5.26 mmoles) of 3,5-dibromo-1-methyl-4-nitropyrazole are heated in a solution of 20 ml tert-butylamine in 30 ml ethanol for 20 hours at boiling temperature. After cooling, the reaction mixture is poured on 150 ml water, the separated product is filtered and washed with 100 ml water. After vacuum drying, 1.14 g (78 percent of theory) of 3-bromo-5-tert-butylamino-1-methyl-4-nitropyrazole are obtained in the form of pale yellow flakes with a melting point of 75° to 77° C.

reactant | 3,5-dibromo-1-methyl-4-nitropyrazole | 5.26 mmoles, 1.5 g | BrC1=NN(C(=C1[N+](=O)[O-])Br)C | C4H3Br2N3O2
reactant | tert-butylamine | 20 ml | C(C)(C)(C)N | C4H11N
reactant | water | 150 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3-bromo-5-tert-butylamino-1-methyl-4-nitropyrazole | 1.14 g, 78 percent | BrC1=NN(C(=C1[N+](=O)[O-])NC(C)(C)C)C | C8H13BrN4O2
